US07795255B2
Preparation of 4-[2-(4-Nitro-phenyl)-6-oxo-4-thioxo-6H-1-thia-3,3b,5-triaza-cyclopenta[a]pentalen-5-yl]-butyric acid ethyl ester (Compound 37)
As depicted in Scheme 27 below, ethyl 2-(4-nitrophenyl)-4H-pyrrolo[2,3-d]thiazole-5-carboxylate (0.1 mmol) is placed in a heavy-walled glass tube equipped with a threaded Teflon plug, and ethyl 4-isothiocyanatobutyrate (1.03 mmol, 10 molequivalents) and triethylamine (2 mmol, 20 molequivalents) are added thereto. The glass tube is sealed and the reaction mixture is heated at 130° C. while stirring overnight (18 hours). Additional isothiocyanate (10 drops, 10 molequivalents) is added thereafter and heating is continued while stirring at 130° C. for 6 additional hours. The mixture is then dissolved in chloroform and the purified final product is isolated by column chromatography on silica, using a 9:1 hexane:ethyl acetate mixture as eluent.

reactant | ethyl 2-(4-nitrophenyl)-4H-pyrrolo[2,3-d]thiazole-5-carboxylate | 0.1 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC2=C(N1)NC(=C2)C(=O)OCC | C14H11N3O4S
reactant | ethyl 4-isothiocyanatobutyrate | 1.03 mmol | N(=C=S)CCCC(=O)OCC | C7H11NO2S
reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
reactant | hexane | CCCCCC | C6H14
catalyst | isothiocyanate | 10 drops | [N-]=C=S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(4-Nitro-phenyl)-6-oxo-4-thioxo-6H-1-thia-3,3b,5-triaza-cyclopenta[a]pentalen-5-yl]-butyric acid ethyl ester | C(C)OC(CCCN1C(C=2N(C=3N=C(SC3C2)C2=CC=C(C=C2)[N+](=O)[O-])C1=S)=O)=O | C19H16N4O5S2
